US04339268
Preparation of (2-methyl -2-nitropropyl) 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzoate.
To a stirred solution of 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzoyl chloride (3.8 g, 0.01 mole) in acetone (10 ml) was added 2-methyl-2-nitropropanol (1.19 g, 0.01 mole) in acetone (10 ml) followed by triethylamine (1.01 g, 0.01 mole) in acetone (5 ml). The temperature rose and a white precipitate formed. The reaction was heated to reflux for 2.5 hours and then stirred overnight at room temperature. After dilution with water (75 ml), the solution was extracted twice with methylene chloride (25 ml @). The organic solution was then washed with 5% sodium hydroxide and finally with a brine solution. The dried solution was concentrated to give an amber oil 2.83 g.

reactant | 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzoyl chloride | 0.01 mole, 3.8 g | ClC1=C(OC=2C=CC(=C(C(=O)Cl)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H6Cl2F3NO4
reactant | 2-methyl-2-nitropropanol | 0.01 mole, 1.19 g | CC(CO)(C)[N+](=O)[O-] | C4H9NO3
reactant | triethylamine | 0.01 mole, 1.01 g | C(C)N(CC)CC | C6H15N
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | acetone | 5 ml | CC(=O)C | C3H6O
product | (2-methyl -2-nitropropyl) 5-[2-chloro-4-(trifluoromethyl)phenoxy]-2-nitrobenzoate | 2.83 g | ClC1=C(OC=2C=CC(=C(C(=O)OCC(C)([N+](=O)[O-])C)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C18H14ClF3N2O7
